US08541457B2
Synthesis of 4-Methyl-2-(2-trifluoromethylbenzoylamino)thiazole-5-carboxylic Acid Benzylamide
Following the procedure as described in Example 2, making variations only as required to use 2-trifluoromethylbenzoyl chloride in place of benzoyl chloride to react with 2-amino-4-methylthiazole-5-carboxylic acid benzylamide, the title compound was obtained as a white solid in 36% yield; 1H NMR (CDCl3, 300 MHz) δ 7.79-7.26 (m, 10H), 5.94 (s, br, 1H), 4.59 (d, J=5.8 Hz, 2H), 2.22 (s, 3H); MS (ES+) m/z 420.0 (M+1).

reactant | 2-trifluoromethylbenzoyl chloride | FC(C1=C(C(=O)Cl)C=CC=C1)(F)F | C8H4ClF3O
reactant | 2-amino-4-methylthiazole-5-carboxylic acid benzylamide | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)N)C | C12H13N3OS
product | 4-Methyl-2-(2-trifluoromethylbenzoylamino)thiazole-5-carboxylic Acid Benzylamide | 36% yield | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)NC(C1=C(C=CC=C1)C(F)(F)F)=O)C | C20H16F3N3O2S
